US04464366
11.7 g of 2-(3-BOC-aminophenyl)-glyoxylic acid are reacted with 5 g of hydroxylamine hydrochloride in the manner described in Example 4. 2-(3-BOC-Aminophenyl)-2-hydroxyiminoacetic acid is obtained.

reactant | 2-(3-BOC-aminophenyl)-glyoxylic acid | 11.7 g | C(=O)(OC(C)(C)C)C=1C(=C(C=CC1)C(C(=O)O)=O)N | C13H15NO5
reactant | hydroxylamine hydrochloride | 5 g | Cl.NO
product | 2-(3-BOC-Aminophenyl)-2-hydroxyiminoacetic acid | C(=O)(OC(C)(C)C)C=1C(=C(C=CC1)C(C(=O)O)=NO)N | C13H16N2O5
